US07745635B1
4-amino-1,2,4-triazole 3.2154 g, 38.2 mmoles, was weighed out and dissolved into 100 ml of acetonitrile in three necked, round bottomed 250 ml flask equipped with an overhead stirrer. Bromomethylcyclopropane, 10.7539 g, 79.6 mmoles, was weighed out and added slowly to the vigorously stirred 4-amino-1,2,4-triazole/acetonitrile solution. Reaction mixture was heated to 50° C. for 5 days, at which time, thin layer chromatography revealed that no 4-amino-1,2,4-triazole remained. The reaction solution was then cooled, and transferred to a large round bottomed flask and the solvent and excess bromomethylcyclopropane rotary evaporated away. The oil was transferred to a preweighed Schlenk flask using a minimal amount of acetonitrile three 10 ml aliquots. The flask and its contents were evacuated for 20 hours at ambient temperature to leave a beige crystalline solid. This solid was then transferred to a 500 ml round bottom flask, and dissolved in hot isopropanol 200 ml. The flask was then placed in a refrigerator overnight to cool. The next day the solution was layered with 100 ml of diethyl ether and returned to cold storage. Upon standing, a large crop of white crystals were formed of 1-methylcyclopropyl-4-amino-1,2,4-triazolium bromide which were washed with three 50 ml aliquots of cold isopropyl alcohol and vacuum dried to a constant weight of 4.8167 g, 22 mmoles. Melting point: 61-63° C.; DSC onset: 150-155° C.

reactant | 4-amino-1,2,4-triazole | 38.2 mmoles, 3.2154 g | NN1C=NN=C1 | C2H4N4
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
reactant | Bromomethylcyclopropane | BrCC1CC1 | C4H7Br
reactant | 4-amino-1,2,4-triazole acetonitrile | NN1C=NN=C1.C(C)#N
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1-methylcyclopropyl-4-amino-1,2,4-triazolium bromide | [Br-].CC1(CC1)[N+]=1N=CN(C1)N | InChI=1S/C6H11N4.BrH/c1-6(2-3-6)10-5-9(7)4-8-10;/h4-5H,2-3,7H2,1H3;1H/q+1;/p-1
